US08236835B2
Preparation of 2-(4-bromobutanamido)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide
To a solution of 2-amino-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide (5.60 g, 22.0 mmol) and triethylamine (2.61 g, 26.0 mmol) in anhydrous tetrahydrofuran (250 mL) was added 4-bromobutanoyl chloride (4.99 g, 26.0 mmol) in anhydrous dichloromethane (10 mL) dropwise at 0° C. The reaction mixture was stirred at ambient temperature for 2 hours, then diluted with dichloromethane (200 mL) and washed with saturated aqueous sodium bicarbonate solution (2×150 mL), and brine (150 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and the filtrate was concentrate in vacuo to afford the title compound as a yellow oil in 92% yield (8.00 g): 1H NMR (300 MHz, CDCl3) δ 8.61 (br s, 1H), 7.32-7.22 (m, 2H), 7.05-6.94 (m, 2H), 6.14 (t, J=5.6 Hz, 1H), 4.53 (d, J=5.6 Hz, 2H), 3.45 (t, J=6.7 Hz, 2H), 2.65 (t, J=6.7 Hz, 2H), 2.58 (s, 3H), 2.23 (quintet, J=6.7 Hz, 2H); MS (ES+) m/z 413.1 (M+1), 415.1 (M+1).

reactant | 2-amino-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | 22.0 mmol, 5.60 g | NC=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F | C12H12FN3OS
reactant | triethylamine | 26.0 mmol, 2.61 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromobutanoyl chloride | 26.0 mmol, 4.99 g | BrCCCC(=O)Cl | C4H6BrClO
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-(4-bromobutanamido)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | 92% yield | BrCCCC(=O)NC=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F | C16H17BrFN3O2S
